US05869485
0.95 g of sodium is dissolved in 200 ml of ethanol and subsequently first 2.98 g of malononitrile and then 11.96 g of 2'-(3-benzyloxyphenylamino)acetophenone are added at RT and the mixture is stirred at 50° C. for 2 h. The mixture is then cooled and concentrated in an RE. The residue is partitioned between water and methylene chloride and the aqueous phase is extracted twice with methylene chloride. The combined organic phases are dried over Na2SO4 and concentrated, 4-phenyl-1-(3-benzyloxyphenyl)-2-amino-3-cyanopyrrole being obtained. The oily product is employed in the next stage without further purification.

reactant | sodium | 0.95 g | [Na] | Na
reactant | malononitrile | 2.98 g | C(CC#N)#N | C3H2N2
reactant | 2'-(3-benzyloxyphenylamino)acetophenone | 11.96 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC1=C(C=CC=C1)C(C)=O | C21H19NO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-phenyl-1-(3-benzyloxyphenyl)-2-amino-3-cyanopyrrole | C1(=CC=CC=C1)C=1C(=C(N(C1)C1=CC(=CC=C1)OCC1=CC=CC=C1)N)C#N | C24H19N3O
